US07816369B2
4-Amino-3-nitrobenzonitrile was reduced to 4-cyano-1,2-phenylenediamine as for compound 19. This was reacted with 2-chloro-5-nitrobenzaldehyde as described in route 1 step 4 to give 2-(2-chloro-5-nitro-phenyl)-1H-benzoimidazole-5-carbonitrile.

reactant | 4-Amino-3-nitrobenzonitrile | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | 4-cyano-1,2-phenylenediamine | C(#N)C1=CC(=C(C=C1)N)N | C7H7N3
reactant | 2-chloro-5-nitrobenzaldehyde | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
product | 2-(2-chloro-5-nitro-phenyl)-1H-benzoimidazole-5-carbonitrile | ClC1=C(C=C(C=C1)[N+](=O)[O-])C1=NC2=C(N1)C=CC(=C2)C#N | C14H7ClN4O2
